US06759554B2
N-(3,5-Dimethylphenyl)benzamide
An oven-dried resealable Schlenk tube was charged with CuI (4.0 mg, 0.0210 mmol, 1.0 mol %), benzamide (300 mg, 2.48 mmol), K2CO3 (600 mg, 4.38 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (26 μL, 0.216 mmol, 11 mol %), 5-bromo-m-xylene (280 μL, 2.06 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 3:1; 15 mL fractions). Fractions 10-15 provided 419 mg (90% yield) of the product as white crystals. 1H NMR (400 MHz, CDCl3): δ 7.92−7.85 (m, 3H), 7.59-7.75 (m, 3H), 7.31 (s, 2H), 6.82 (s, 1H), 2.34 (s, 6H). 13C NMR (100 MHz, CDCl3): δ 165.6, 138.7, 137.7, 135.1, 131.7, 128.7, 126.9, 126.3, 117.9, 21.3. IR (neat, cm−1): 3300, 1649,1614, 1547.

reactant | benzamide | 2.48 mmol, 300 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | K2CO3 | 4.38 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.216 mmol, 26 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 5-bromo-m-xylene | 2.06 mmol, 280 μL | BrC=1C=C(C=C(C1)C)C | C8H9Br
catalyst | CuI | 0.0210 mmol, 4.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-(3,5-Dimethylphenyl)benzamide | 419 mg, 90% yield | CC=1C=C(C=C(C1)C)NC(C1=CC=CC=C1)=O | C15H15NO
